US07691843B2
2-Trifluoromethoxyanisole was prepared from 2-trifluoromethoxyphenol by following Method C in 78% yield. Methyl iodide was used in this reaction as an alkylating agent and the reaction was conducted at room temperature for 17 h. The product was used without further purification.

reactant | 2-trifluoromethoxyphenol | FC(OC1=C(C=CC=C1)O)(F)F | C7H5F3O2
reactant | Methyl iodide | CI | CH3I
product | 2-Trifluoromethoxyanisole | 78% yield | FC(OC1=C(C=CC=C1)OC)(F)F | C8H7F3O2
